US07935707B2
C) 3-Cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid
To 0.8 g (1.8 mmol) of 3-cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester in 3 ml of EtOH was added 0.6 ml of 6 M sodium hydroxide solution (3.8 mmol) and the mixture was heated to reflux for 16 h. The solvent was then evaporated, 1M hydrochloric acid solution was added and the resulting precipitate was isolated by filtration, affording 0.7 g (94%) of the title compound as a white solid. MS: 406.1 (MH+).

reactant | 3-cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester | 1.8 mmol, 0.8 g | C(C)OC(=O)C=1N(C(=NC1C=1C=NC(=CC1)O)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C21H18F3N3O4
reactant | sodium hydroxide | 3.8 mmol, 6 M, 0.6 ml | [OH-].[Na+]
solvent | EtOH | 3 ml | CCO | C2H6O
product | 3-Cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid | 0.7 g, 94% | C1(CC1)N1C(=NC(=C1C(=O)O)C=1C=NC(=CC1)O)C1=CC=C(C=C1)OC(F)(F)F | C19H14F3N3O4
